US08309546B2
5-[8-(4-Acetylpiperazin-1-yl)-9-isobutyl-6-morpholin-4-yl-9H-purin-2-yl]pyrimidin-2-amine
Triethylamine (143 μl) and acetyl chloride (50 μl, 0.72 mmol) were added to 5-(9-isobutyl-6-morpholin-4-yl-8-piperazin-1-yl-9H-purin-2-yl)pyrimidin-2-amine (2 ml of solution of 100 mg of this compound in 1 ml of N-methylpyrrolidone) and the resulting mixture was stirred for 1 hour. The resulting mixture was partitioned with ethyl acetate and water and the organic layer was dried over magnesium sulfate. The solvent was evaporated under reduced pressure, the residue was dissolved in methanol (2 ml) followed by the addition of 25% sodium methoxide-methanol solution (1 ml), and the resulting mixture was stirred for 3 hours. The reaction mixture was partitioned with ethyl acetate and water, the organic layer was dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. Dimethyl sulfoxide (3 ml) was added to the residue, then the resulting mixture was partitioned with ethyl acetate and water, the organic layer was similarly dried, and then the solvent was evaporated to give the title compound (150 mg, 61%) as a pale yellow solid.

reactant | Triethylamine | 143 μl | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.72 mmol, 50 μl | C(C)(=O)Cl | C2H3ClO
reactant | 5-(9-isobutyl-6-morpholin-4-yl-8-piperazin-1-yl-9H-purin-2-yl)pyrimidin-2-amine | C(C(C)C)N1C2=NC(=NC(=C2N=C1N1CCNCC1)N1CCOCC1)C=1C=NC(=NC1)N | C21H30N10O
solvent | N-methylpyrrolidone | 1 ml | CN1C(CCC1)=O | C5H9NO
product | 5-[8-(4-Acetylpiperazin-1-yl)-9-isobutyl-6-morpholin-4-yl-9H-purin-2-yl]pyrimidin-2-amine | 150 mg, 61% | C(C)(=O)N1CCN(CC1)C=1N(C2=NC(=NC(=C2N1)N1CCOCC1)C=1C=NC(=NC1)N)CC(C)C | C23H32N10O2
